US07192968B2
Lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine-2-carboxylate
5-Methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine (6.43 g) was dissolved in absolute tetrahydrofuran (200 ml), to the solution n-butyllithium (1.47N hexane solution, 34.0 ml) was added dropwise at −78° C., and the resultant mixture was stirred for 40 minutes. After carbon dioxide gas was blown into the reaction mixture at −78° C. for 1 hour, the reaction mixture was warmed to room temperature and then concentrated under reduced pressure to obtain the title compound (9.42 g) as pale brown foamy solids.

reactant | 5-Methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 6.43 g | CN1CC2=C(CC1)N=CS2 | C7H10N2S
reactant | carbon dioxide | C(=O)=O | CO2
reactant | n-butyllithium | 1.47N, 34.0 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine-2-carboxylate | 9.42 g | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+] | InChI=1S/C8H10N2O2S.Li/c1-10-3-2-5-6(4-10)13-7(9-5)8(11)12;/h2-4H2,1H3,(H,11,12);/q;+1/p-1
